US08541411B2
Preparation of 2-methyl-1-{[2-methyl-5-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
To a solution of methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate, prepared as described in Example 26, step d (0.3 g, 1.090 mmol) in N,N-Dimethylformamide (DMF) (10 mL) was added 2-methyl-5-(trifluoromethyl)benzyl bromide (0.552 g, 2.179 mmol) and potassium carbonate (0.452 g, 3.27 mmol). The resulting reaction mixture was stirred for 3 h at 80° C. The solution was cooled to room temperature and poured into water and was extracted with EtOAc. The combined organic phase was washed with Brine and concentrated. The residue was purified on Biotage Isolera purification system using a Biotage 10 g SNAP silica gel cartridge and eluted with a gradient of DCM to 5% MeOH/DCM over 10 column volumes. The expected compound was collected and evaporated to yield a tan solid. The tan solid was dissolved in tetrahydrofuran (THF) (10.00 mL) followed by the addition of 1M lithium hydroxide solution (10 mL, 10 mmol). The reaction was stirred at 50° C. for 2 h. The reaction was cooled to room temperature and the organic solvent was removed in vacuo. The solution was diluted with water (20 mL) and acidified with 1 N HCl. The mixture was then filtered and the grey solid was purified by reversed phase HPLC with a gradient of acetonitrile (0.1% TFA) and water (0.1% TFA v/v) (25-55%) over 10 minutes. The appropriate fractions were collected and evaporated to yield the desried product (120.1 mg, 0.277 mmol, 25.4% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.53 (s, 3H) 2.88 (s, 3H) 3.15-3.23 (m, 4H) 3.79-3.88 (m, 4H) 5.84 (s, 2H) 7.06 (s, 1H) 7.27 (d, J=2.27 Hz, 1H) 7.51-7.58 (m, 1H) 7.59-7.64 (m, 1H) 7.86 (d, 1H). MS (ES+) m/e 433.8 [M+H]+.

reactant | methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | CC1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC | C14H17N3O3
reactant | 2-methyl-5-(trifluoromethyl)benzyl bromide | 2.179 mmol, 0.552 g | CC1=C(CBr)C=C(C=C1)C(F)(F)F | C9H8BrF3
reactant | potassium carbonate | 3.27 mmol, 0.452 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium hydroxide | 10 mmol, 1M, 10 mL | [OH-].[Li+]
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10.00 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-1-{[2-methyl-5-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 0.277 mmol, 120.1 mg, 25.4% yield | CC1=NC2=C(N1CC1=C(C=CC(=C1)C(F)(F)F)C)C=C(C=C2C(=O)O)N2CCOCC2 | C22H22F3N3O3
